US04827020
5.0 g of methyl N-methoxycarbonylglycine were dissolved in 30 ml of N,N-dimethylformamide. Then ice-cooling the mixture, 1.5 g of sodium hydride (60% oil dispersion) were added thereto under a nitrogen atmosphere and stirred for 20 minutes. Thereafter 6.0 g of propargyl bromide were dropped thereto over 15 minutes and further stirred for 40 minutes. Then the reaction mixture was poured into ice-water and sodium chloride was added thereto to saturate the same. Then the aqueous layer was washed with hexane and it was subjected to two times of extraction with 100 ml of ether. The ether layers were combined together and dried over anhydrous magnesium sulfate and the solvent was evaporated off to obtain 3.9 g of methyl N-propargyl-N-methoxycarbonylglycinate (nD18 : 1.4891).

reactant | methyl N-methoxycarbonylglycine | 5.0 g | CN(CC(=O)O)C(=O)OC | C5H9NO4
reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | propargyl bromide | 6.0 g | C(C#C)Br | C3H3Br
reactant | sodium chloride | [Cl-].[Na+]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | methyl N-propargyl-N-methoxycarbonylglycinate | 3.9 g | C(C#C)N(CC(=O)OC)C(=O)OC | C8H11NO4
